US07981918B2
(3R)-3-(3,5-Dichloro-4′-fluoro-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one
A mixture of trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-1-(1-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-3-ylmethyl]-phenyl ester and trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-4-yl)-pyrrolidin-3-ylmethyl]-phenyl ester, Preparation 73, (0.49 g, 0.76 mmol), 4-fluorophenylboronic acid (0.13 g, 0.91 mmol), sodium carbonate (0.24 g, 2.28 mmol) in THF (20 mL) and water (6 mL) is brought to 60° C. To the mixture at 60° C., add Pd(PPh3)4 (0.044 g, 0.038 mmol). Raise the reaction temperature to 80° C. and stir the reaction for 1 hour. Cool the reaction, dilute with ethyl acetate and wash with water and brine. Dry the organic layer (Na2SO4) and remove the solvent in vacuo to afford crude product (0.45 g). Dissolve in THF (5 mL) and LiOH (2 N, 5 mL) and stir at room temperature for 1 hour. Quench the reaction with HCl (1N, 8 mL) and dilute with ethyl acetate and washed with water. Dry the organic layer (Na2SO4), remove the solvent in vacuo to afford crude product, and purify on silica gel column with 50% ethyl acetate in hexanes to 100% ethyl acetate to afford 0.25 g of the title product. MS (m/z): 458 (M+). Separate the two component mixture into individual enantiomers via preparative chiral chromatography (Chiralpak AD, 5×15 cm, 60/40 ethanol/heptane/0.2% DMEA, flow=40 mL/min, 260 nm). The analytical conditions are as follows: Chiralpak AD-H, 4.6×150 mm, 60/40 ethanol/heptane/0.2% DMEA, flow=0.6 mL/min, 260 nm.

reactant | trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-1-(1-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-3-ylmethyl]-phenyl ester | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1C=2C=NN(C2CCC1)S(=O)(=O)C(F)(F)F)=O)Cl)OS(=O)(=O)C(F)(F)F | C20H17Cl2F6N3O6S2
reactant | trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-4-yl)-pyrrolidin-3-ylmethyl]-phenyl ester | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1C2=CN(N=C2CCC1)S(=O)(=O)C(F)(F)F)=O)Cl)OS(=O)(=O)C(F)(F)F | C20H17Cl2F6N3O6S2
reactant | 4-fluorophenylboronic acid | 0.76 mmol, 0.49 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2.28 mmol, 0.24 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | LiOH | 2 N, 5 mL | [Li+].[OH-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.038 mmol, 0.044 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3R)-3-(3,5-Dichloro-4′-fluoro-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-1H-indazol-4-yl)-pyrrolidin-2-one | 0.25 g | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1C=2C=NNC2CCC1)=O)Cl)C1=CC=C(C=C1)F | C24H22Cl2FN3O
